US05932571
Combine (S)-2-(4-fluorophenyl)pent-4-enoic acid (3.61 g, 18.6 mmol), dichloromethane (20 mL), and dimethylformamide (2 drops). Add oxalyl chloride (1.94 mL, 22.3 mmol). After 2 hours, evaporate in vacuo to give (S)-2-(4-fluorophenyl)pent-4-enoyl chloride. Combine with toluene (10 mL) and slowly add, with vigorous stirring, to a cooled (ice bath) aqueous solution of methylamine (4 mL, 40%). After 1 hour, partition the reaction mixture between water and dichloromethane. Separate the layers, extract the organic layer with a saturated aqueous sodium bicarbonate solution. Dry the organic over MgSO4, filter, and evaporate in vacuo to give a residue. Triturate the residue with hexane to give a solid. Collect the solid by filtration and dry to give (S)-2-(4-fluorophenyl)pent-4-enoic acid, N-methyl amide: mp; 104-105° C. Rf =0.42 (silica gel, 50% ethyl acetate/hexane).

reactant | (S)-2-(4-fluorophenyl)pent-4-enoic acid | 18.6 mmol, 3.61 g | FC1=CC=C(C=C1)[C@@H](C(=O)O)CC=C | C11H11FO2
reactant | oxalyl chloride | 22.3 mmol, 1.94 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-2-(4-fluorophenyl)pent-4-enoyl chloride | FC1=CC=C(C=C1)[C@@H](C(=O)Cl)CC=C | C11H10ClFO
